MM3 (VOUT1 VSS net11 VSS) nmos4
MM0 (net13 net12 net11 VSS) nmos4
MM4 (net11 VB1 VSS VSS) nmos4
MM6 (net13 net1002 net016 VDD) pmos4
MM5 (VOUT1 net1002 net014 VDD) pmos4
MM1 (net014 net13 VDD VDD) pmos4
MM2 (net016 net13 VDD VDD) pmos4
MM0 (net1002 net1007 VSS VSS) nmos4
MM1 (net1002 net1002 VB2 VDD) pmos4
MM3 (VB2 VB2 VDD VDD) pmos4
RR1 (net1007 net7) resistor
RR0 (VDD net7) resistor
RRF (VDD net1007) resistor
MM1 (net7 net1007 VSS VSS) nmos4
MM0 (net1007 net1007 VSS VSS) nmos4
M12 (VIN1 VCLK1 net11 VSS) nmos4
M13 (net11 VCLK2 net12 VSS) nmos4
C1 (net12 VOUT1) capacitor
C0 (net11 VSS) capacitor